US06300334B1
a) 3-Methyl-1-(cyclopropylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Potassium carbonate (1.0 g) was added to a mixture of 3-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (400 mg; J. Chem. Soc. Perkin Trans.1; 1980; 1853) and cyclopropylmethyl bromide (1.0 ml) in dry dimethylformamide (15 ml). The solution was stirred at room temperature for 20 hours and was then diluted with water and extracted thrice with diethyl ether. The combined organic extracts were washed with brine, then dried, filtered and evaporated. The residue was purified by column chromatography over silica, eluting with ethyl acetate: isohexane (1:4) to give the subtitle compound (180 mg).

reactant | Potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 400 mg | CN1C(NC2=C(C1=O)C=CS2)=O | C7H6N2O2S
reactant | cyclopropylmethyl bromide | 1.0 ml | C1(CC1)CBr | C4H7Br
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-Methyl-1-(cyclopropylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 180 mg | CN1C(N(C2=C(C1=O)C=CS2)CC2CC2)=O | C11H12N2O2S
